US07534893B2
[N-[(3,5-dichlorophenyl)methyl]-2,2-bis(methyloxy)ethanamine
A mixture of [(3,5-dichlorophenyl)methyl]amine (100 mg), 2-bromo-1, 1bis(methyloxy)ethane (123 μL) and K2CO3 (95 mg) in anhydrous DMF (2 mL) was processed by microwave irradiation at 150° C. for 10 min (3 cycles). The mixture was allowed to cool to rt, water was added and mixture extracted three times with AcOEt, the organic phases collected, washed with brine, dried and evaporated under vacuum to give a crude which was purified by flash cromathography eluting with CH:AcOEt=9:1 to 85:15 to afford the title compound (120 mg) as a colourless oil.

reactant | [(3,5-dichlorophenyl)methyl]amine | 100 mg | ClC=1C=C(C=C(C1)Cl)CN | C7H7Cl2N
reactant | 2-bromo-1, 1bis(methyloxy)ethane | 123 μL | BrCC(OC)OC | C4H9BrO2
reactant | K2CO3 | 95 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[(3,5-dichlorophenyl)methyl]-2,2-bis(methyloxy)ethanamine | 120 mg | ClC=1C=C(C=C(C1)Cl)CNCC(OC)OC | C11H15Cl2NO2
